US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-7-trifluoromethyl-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(4-trifluoromethyl-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.416 g) was coupled to 4-(2-oxoperhydropyrimidine-1-yl)piperidine (0.183 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the hydrochloride salt to afford the title compound (0.34 g); mp 190°-205° C. (d); MS: m/z=583(M+1); NMR(CD3SOCD3): 1.66 (m,2), 2.11 (m,1), 3.05 (s,3), 4.37 (m,1), 4.96 (m,1), 6.31 (m, 1), 6.75 (m,1), 6.90 (s,1), 7.34 (m, 1), 7.82 (s,1), 8.22 (m, 1). Analysis for C28H31Cl2N4O2F3 ·1.0 H2O·1.0 HCl: Calculated: C, 52.71; H, 5.37, N, 8.78; Found: C, 52.48; H, 5.22; N, 8.46.

reactant | 3-(3,4-Dichlorophenyl)-3-(4-trifluoromethyl-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.416 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=C(C=CC=C12)C(F)(F)F)=O)C | C19H14Cl2F3NO2
reactant | 4-(2-oxoperhydropyrimidine-1-yl)piperidine | 0.183 g | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-7-trifluoromethyl-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.34 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(NCCC1)=O)C1N(C(C2=C(C=CC=C12)C(F)(F)F)=O)C | InChI=1S/C28H31Cl2F3N4O2.ClH/c1-35-25(20-4-2-5-21(28(31,32)33)24(20)26(35)38)19(17-6-7-22(29)23(30)16-17)10-15-36-13-8-18(9-14-36)37-12-3-11-34-27(37)39;/h2,4-7,16,18-19,25H,3,8-15H2,1H3,(H,34,39);1H
